* File: 1.5SMC75AT3.sub
* Suppressor diode: TVS 1.5SMC75AT3, ONSEMI
*
*             C0
*         ----||----------------
*        |                      |
*        |    L1        -----   |
* 10 o---o--/\/\/\--o--| B-I |--o---o 2
*                   |   -----   |
*                   |           |
*                   o----||-----o
*                   |    C1     |
*                   |           |
*                    ---->|-----
*                        D1
*
* 10=anode 2=cathode
.subckt 1.5SMC75AT3 10 2
C0 10 2 1p
L1 10 1 4n
C1 1 2 100p
R1 1 2 1e9
D1 1 2 DM
.model DM D (Is=1e-6 N=2 RS=.005 Cjo=500p TT=10n)
*
* Over-voltage,current pairs from diagram in the datasheet
* 1.1,1, 1.55,2, 2.5,5, 3.7,10, 5.5,20, 10.5,50, 18,100, 180,1000)
* over-voltage,current specification from datasheet
* 64.1V,5u  75V,1m
* Combined data in one B-current-source
B1 2 1 I=TABLE(V(2,1), 0,0, 10,3u, 64.1, 5u, 75,1m, 76.1,1, 
+ 76.55,2, 77.5,5, 78.7,10, 80.5,20, 85.5,50, 93,100, 255,1000)
*
.ends
